US07211577B2
Preparation of 4-(1,3-dihydroxypropan-2-yl)aminomethyl-2-isobutyl-6-(4-methylphenyl)-2H-pyridazin-3-one
Following the procedure of Example 1(10), 2-isobutyl-4-methanesulfonyloxymethyl-6-(4-methylphenyl)-2H-pyridazin-3-one and 2-amino-1,3-propanediol were reacted to yield the title compound as colorless needles (yield: 83.7%).

reactant | 2-isobutyl-4-methanesulfonyloxymethyl-6-(4-methylphenyl)-2H-pyridazin-3-one | C(C(C)C)N1N=C(C=C(C1=O)COS(=O)(=O)C)C1=CC=C(C=C1)C | C17H22N2O4S
reactant | 2-amino-1,3-propanediol | NC(CO)CO | C3H9NO2
product | 4-(1,3-dihydroxypropan-2-yl)aminomethyl-2-isobutyl-6-(4-methylphenyl)-2H-pyridazin-3-one | yield: 83.7% | OCC(CO)NCC=1C(N(N=C(C1)C1=CC=C(C=C1)C)CC(C)C)=O | C19H27N3O3
